US04798843
(ii) 5-(4-Methoxyphenyl)-3-oxopentanoic acid, ethyl ester
3-(4-Methoxyphenyl)propionyl chloride (84.6 g, 0.426 mole) was added to a stirred suspension of ethyl acetoacetate, sodium salt (64.7 g, 0.426 mole) in ether (250 ml) over a period of 1.5 hours and the reaction was allowed to sit for 16 hours. The reaction mixture was treated with water (100 ml) and extracted with ether. The ether extract was cooled in an ice bath and ammonia gas was bubbled into the solution for 2.5 hours while the reactants were allowed to warm to room temperature. The reaction was washed with water, filtered and the ether fraction was stirred with 3N hydrochloric acid (100 ml) for 16 hours. The ether layer was washed with water, 5% sodium bicarbonate, brine and dried with sodium sulfate. The solvent was removed and the residue was distilled under high vacuum to give the product as an yellow oil (30.0 g, 28%).

reactant | 3-(4-Methoxyphenyl)propionyl chloride | 0.426 mole, 84.6 g | COC1=CC=C(C=C1)CCC(=O)Cl | C10H11ClO2
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium | 0.426 mole, 64.7 g | [Na] | Na
reactant | water | 100 ml | O | H2O
solvent | ether | 250 ml | CCOCC | C4H10O
product | 5-(4-Methoxyphenyl)-3-oxopentanoic acid, ethyl ester | 30.0 g, 28% | COC1=CC=C(C=C1)CCC(CC(=O)OCC)=O | C14H18O4
